US03951980
8-(N-Ethylcarbamyl)-3-methyl-3,8-diazabicyclo[3.2.1]octane
3-Methyl-3,8-diazabicyclo[3.2.1]octane dihydrochloride (3.0 g, 0.0151 mole), prepared as described in Example 5, was reacted with 1.21 ml (0.0151 mole) ethyl isocyanate in a procedure as described for 8-carbethoxy-3-methyl-3,8-diazabicyclo[3.2.1]octane in Example 6. The crude desired product, as the free base, was purified by chromatography on alumina with chloroform elution. An hydrochloride salt was made by treatment of a solution of the free base in diethyl ether with ethanolic hydrogen chloride and filtering to collect 1.0 g (28% yield) white solid exhibiting a dual melting point of 100°-140° C and 191°-202° C until dried 2 hours at 126° C in vacuo after which the desired product hydrochloride salt melted at 205°-215° C.

reactant | 3-Methyl-3,8-diazabicyclo[3.2.1]octane dihydrochloride | 0.0151 mole, 3.0 g | Cl.Cl.CN1CC2CCC(C1)N2
reactant | ethyl isocyanate | 0.0151 mole, 1.21 ml | C(C)N=C=O | C3H5NO
reactant | 8-carbethoxy-3-methyl-3,8-diazabicyclo[3.2.1]octane | C(=O)(OCC)N1C2CN(CC1CC2)C | C10H18N2O2
product | 8-(N-Ethylcarbamyl)-3-methyl-3,8-diazabicyclo[3.2.1]octane | 1.0 g, 28% yield | C(C)NC(=O)N1C2CN(CC1CC2)C | C10H19N3O
